US08097617B2
Step 23.1: [6-(2,4-Dichloro-phenyl)-3-piperazin-1-yl-imidazo[1,2-a]pyridin-7-ylmethyl]-carbamic acid tert-butyl ester.
A mixture of {6-(2,4-dichloro-phenyl)-3-[4-(2-nitro-benzenesulfonyl)-piperazin-1-yl]-imidazo[1,2-a]pyridin-7-ylmethyl}-carbamic acid tert-butyl ester (2.9 g, 4.38 mmol, prepared following the procedure described for Example 6, Step 3.3 using the adequate cyclisation reagent), LiOH.H2O (1.11 g, 26.3 mmol) and mercaptoacetic acid (0.94 mL, 13.2 mmol) in DMF (20 mL) was stirred at RT for 30 min then poured into a saturated aqueous NaHCO3 solution (200 mL) and extracted with AcOEt (4×200 mL). The combined organic fractions were washed with brine (100 mL), dried over Na2SO4, filtered and evaporated to dryness. The remaining residue was purified by Combi-Flash CompanionT™ (Isco Inc.) column chromatography (SiO2; gradient elution, DCM/[DCM/MeOH—NH3 9:1]95:5→100% [DCM/MeOH—NH3 9:1]) to yield the title compound (1.61 g, 3.38 mmol, 77%) as a yellow foam. MS: 477 [M+1]+; HPLC: AtRet=1.45; TLC: RF 0.33 (DCM/MeOH—NH3 9:1).

reactant | {6-(2,4-dichloro-phenyl)-3-[4-(2-nitro-benzenesulfonyl)-piperazin-1-yl]-imidazo[1,2-a]pyridin-7-ylmethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)N2CCN(CC2)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])=O | C29H30Cl2N6O6S
reactant | LiOH.H2O | 26.3 mmol, 1.11 g | O[Li].O
reactant | mercaptoacetic acid | 13.2 mmol, 0.94 mL | SCC(=O)O | C2H4O2S
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [6-(2,4-Dichloro-phenyl)-3-piperazin-1-yl-imidazo[1,2-a]pyridin-7-ylmethyl]-carbamic acid tert-butyl ester | 3.38 mmol, 1.61 g, 77% | C(C)(C)(C)OC(NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=CN2)N2CCNCC2)=O | C23H27Cl2N5O2
